US08703758B2
C) 6-(cyclopropylmethoxy)-2-{4-[2-(morpholin-4-yl)-2-oxoethoxy]piperidin-1-yl}-1,3-benzoxazole
To a solution of 2-{4-[2-(morpholin-4-yl)-2-oxoethoxy]piperidin-1-yl}-1,3-benzoxazol-6-ol (2.81 g) in DMF (26 mL) were added potassium carbonate (3.22 g) and (bromomethyl)cyclopropane (1.51 mL), and the mixture was stirred at 80° C. overnight. The reaction mixture was allowed to cool to room temperature, and diluted with ethyl acetate. The diluted solution was washed with distilled water and saturated brine, and dried over anhydrous sodium sulfate. The solvent was evaporated under reduced pressure and the residue was purified by silica gel chromatography (NH, hexane/ethyl acetate) to give the title compound (2.10 g).

reactant | 2-{4-[2-(morpholin-4-yl)-2-oxoethoxy]piperidin-1-yl}-1,3-benzoxazol-6-ol | 2.81 g | N1(CCOCC1)C(COC1CCN(CC1)C=1OC2=C(N1)C=CC(=C2)O)=O | C18H23N3O5
reactant | potassium carbonate | 3.22 g | C([O-])([O-])=O.[K+].[K+]
reactant | (bromomethyl)cyclopropane | 1.51 mL | BrCC1CC1 | C4H7Br
solvent | DMF | 26 mL | CN(C)C=O | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 6-(cyclopropylmethoxy)-2-{4-[2-(morpholin-4-yl)-2-oxoethoxy]piperidin-1-yl}-1,3-benzoxazole | 2.10 g | C1(CC1)COC1=CC2=C(N=C(O2)N2CCC(CC2)OCC(=O)N2CCOCC2)C=C1 | C22H29N3O5
